US09340513B2
4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((1-(5-Chloropyrimidin-2-yl)cyclopropyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid
To a solution of 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((1-(5-chloropyrimidin-2-yl)cyclopropyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate (300 mg, 0.360 mmol) in dichloromethane (5 mL) stirred at rt was added TFA (5 mL). The reaction mixture was stirred at rt for 2 h. It was evaporated in vacuo to give crude product which was purified by preparative HPLC to give the title compound (90 mg, 28%) as a light yellow solid. 1H NMR (300 MHz, DMSO-d6) δ=8.72 (s, 2H), 8.54 (br. s., 1H), 6.70 (d, J=15.8 Hz, 1H), 5.94 (d, J=15.8 Hz, 1H), 4.55-4.29 (m, 1H), 3.31-3.07 (m, 1H), 2.94-2.64 (m, 1H), 2.59-0.60 (m, 52H); LC/MS: m/z calculated 775.4. Found 776.3 (M+1)+.

reactant | 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((1-(5-chloropyrimidin-2-yl)cyclopropyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 0.360 mmol, 300 mg | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)\C=C\C(=O)NC5(CC5)C5=NC=C(C=N5)Cl)C)C)(C)C)C | C49H70ClN3O6
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((1-(5-Chloropyrimidin-2-yl)cyclopropyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid | 90 mg, 28% | ClC=1C=NC(=NC1)C1(CC1)NC(/C=C/[C@]12C([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)OC(CC(C(=O)O)(C)C)=O)C)=C(C(C2)=O)C(C)C)=O | C45H62ClN3O6
